US04914240
Under an atmosphere of nitrogen, a mixture of 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-methanesulfonyloxy-4-aza-octane, (7.6 g, 14 mM), potassium phthalimide (2.85 g, 10% excess) and dry DMF (20 mL) is stirred and heated at 90° C. for 20 hours. Following the addition of water (approximately 100 mL), the reaction is extracted with dichloromethane, washed with 1N KOH (twice), and dried (Na2SO4). The solvents are removed by evaporation to yield and oil (8.7 g) which is flash-chromatographed on silica (300 g, eluent: ethyl acetate/petroleum ether/50--50) with 100 mL fractions being taken. Fractions 15-29 are pooled and the solvent is evaporated to yield 1,8-diphthalimido-4-p-toluenesulfonyl-6,6-difluoro-4-aza-octane, which crystallizes on standing: 6.62 g (80%).

reactant | 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-methanesulfonyloxy-4-aza-octane | 14 mM, 7.6 g | C1(C=2C(C(N1CCCN(CC(CCOS(=O)(=O)C)(F)F)S(=O)(=O)C1=CC=C(C=C1)C)=O)=CC=CC2)=O | C23H26F2N2O7S2
reactant | potassium phthalimide | 2.85 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | approximately 100 mL | O | H2O
product | 1,8-diphthalimido-4-p-toluenesulfonyl-6,6-difluoro-4-aza-octane | C1(C=2C(C(N1CCCN(CC(CCN1C(C=3C(C1=O)=CC=CC3)=O)(F)F)S(=O)(=O)C3=CC=C(C=C3)C)=O)=CC=CC2)=O | C30H27F2N3O6S
